US04080323
5-Phenyl-1,2,3,4-tetrahydro-2-nitromethylene-5H-1,5-benzodiazepin-4-one
Potassium t-butoxide, 3.15 g (.0281 moles) was added to a mixture of 70 ml of dimethylformamide and 14 ml of nitromethane. After stirring for 30 min at room temperature under nitrogen, 6.9 g (0.0234 moles) of 3,5-dihydro-2-(N-nitrosomethylamino)-5-phenyl-4H-1,5-benzodiazepin-4-one, was added and stirring was continued for 48 hours. The mixture was acidified with acetic acid and diluted with water. The precipitate was collected, washed with water and recrystallized from methylene chloride/ethanol to yield end product with mp 231°-234°. Recrystallization for analysis from the same solvents raised the melting point to 233°-235°.

reactant | Potassium t-butoxide | CC(C)([O-])C.[K+]
reactant | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
reactant | nitromethane | 14 ml | [N+](=O)([O-])C | CH3NO2
reactant | 3,5-dihydro-2-(N-nitrosomethylamino)-5-phenyl-4H-1,5-benzodiazepin-4-one | 0.0234 moles, 6.9 g | N(=O)CNC=1CC(N(C2=C(N1)C=CC=C2)C2=CC=CC=C2)=O | C16H14N4O2
solvent | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-Phenyl-1,2,3,4-tetrahydro-2-nitromethylene-5H-1,5-benzodiazepin-4-one | C1(=CC=CC=C1)N1C(CC(NC2=C1C=CC=C2)=C[N+](=O)[O-])=O | C16H13N3O3
